US05324854
Preparation of N-acetyl-N-methyl-2-chloro-5-(3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)pyrimidinyl)benzenesulfonamide (Compound #55).
To a stirred mixture of 0.≠g of a 60% dispersion of sodium hydride in mineral oil and 30 ml of DMF cooled to 5° C. was added 1.5 g of N-methyl-2-chloro-5-(3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H) -pyrimidinyl)benzenesulfonamide. (Compound #40), prepared from 2-chloropyrimidinyl)benzenesulfonyl chloride and a 40% solution of methylamine in water following the procedure of Process B. After stirring for 1 hour at 5° C., 0.75 ml of acetic anhydride was added to the reaction mixture. After stirring at room temperature for 18 hours, the mixture was concentrated using a rotary evaporator. On treating the residue with cold water, 1.6 g of a brown solid was obtained. Further treatment of the solid with boiling ethanol and filtration gave 1.25 g of the title compound as an off-white solid, m.p. 193°-195° C. Spectral data for this compound is found in Table I.

reactant | sodium hydride | [H-].[Na+]
reactant | N-methyl-2-chloro-5-(3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H) -pyrimidinyl)benzenesulfonamide | 1.5 g | CNS(=O)(=O)C1=C(C=CC(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl | C13H11ClF3N3O4S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | methylamine | CN | CH5N
reactant | acetic anhydride | 0.75 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-acetyl-N-methyl-2-chloro-5-(3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)pyrimidinyl)benzenesulfonamide | 1.6 g | C(C)(=O)N(S(=O)(=O)C1=C(C=CC(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl)C | C15H13ClF3N3O5S
